US06429207B1
4-Hydroxy-6-trifluoromethyl-3-carboxylic acid (514 mg, 2 mmol), thionyl chloride, trans-4-methylcyclohexylamine hydrochloride (225 mg, 1.5 mmol), and triethylamine (2 mL) afforded crude N-(trans-4-methylcyclohexyl)-4-chloro-6-trifluoromethylquinoline-3-carboxamide:

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N-(trans-4-methylcyclohexyl)-4-chloro-6-trifluoromethylquinoline-3-carboxamide | C[C@@H]1CC[C@H](CC1)NC(=O)C=1C=NC2=CC=C(C=C2C1Cl)C(F)(F)F | C18H18ClF3N2O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | trans-4-methylcyclohexylamine hydrochloride | 1.5 mmol, 225 mg | Cl.C[C@@H]1CC[C@H](CC1)N | InChI=1S/C7H15N.ClH/c1-6-2-4-7(8)5-3-6;/h6-7H,2-5,8H2,1H3;1H/t6-,7-;
